US04226872
Potassium hydroxide (1.1 g, 18 mmol) is dissolved in 25 ml methanol, after which is added 2-(acetoxymethyl)-6-benzoylpyridine (2.3 g, 9 mmol) in 20 ml methanol and the mixture is then stirred overnight. The mixture is diluted with water and saturated sodium chloride, then extracted with ether (2×), washed with sat. sodium chloride, dried over magnesium sulfate and stripped to yield (6-benzoyl-2-pyridyl)methanol.

reactant | Potassium hydroxide | 18 mmol, 1.1 g | [OH-].[K+]
reactant | 2-(acetoxymethyl)-6-benzoylpyridine | 9 mmol, 2.3 g | C(C)(=O)OCC1=NC(=CC=C1)C(C1=CC=CC=C1)=O | C15H13NO3
solvent | methanol | 25 ml | CO | CH4O
solvent | methanol | 20 ml | CO | CH4O
solvent | water | O | H2O
solvent | sodium chloride | [Cl-].[Na+]
product | (6-benzoyl-2-pyridyl)methanol | C(C1=CC=CC=C1)(=O)C1=CC=CC(=N1)CO | C13H11NO2
